US07622471B2
1) Benzyl ethyl hydrazine-1,2-dicarboxylate
Triethylamine (100 mL) and benzyl chloroformate (103 mL) were added to ethyl carbazate (50.0 g) in methylene chloride (400 mL) at 0° C., followed by stirring at room temperature for 18 hours. The reaction mixture was partitioned by use of saturated aqueous sodium hydrogencarbonate and chloroform. The organic layer was washed with brine, and then dried over magnesium sulfate anhydrate, followed by filtration. The solvent was removed under reduced pressure, and the residue was purified through silica gel column chromatography (hexane-ethyl acetate), to thereby give benzyl ethyl hydrazine-1,2-dicarboxylate as an oily product (31.7 g, 27.7%).

reactant | Triethylamine | 100 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 103 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | ethyl carbazate | 50.0 g | C(NN)(=O)OCC | C3H8N2O2
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
product | Benzyl ethyl hydrazine-1,2-dicarboxylate | N(NC(=O)OCC)C(=O)OCC1=CC=CC=C1 | C11H14N2O4
